US07906533B2
A stirred solution of 2-[(2-chloro-pyridine-4-carbonyl)-amino]-nicotinic acid methyl ester (4 g, 13.72 mmol) in dry THF (60 mL), under nitrogen, was treated with borane-dimethyl sulphide complex (2M solution in THF, 34 mL, 68.6 mmol). On completion of the reaction the mixture was carefully poured into MeOH and the resulting mixture heated at reflux for 30 minutes. The volatiles were removed in vacuo and the residue partitioned between dilute aqueous sodium hydrogencarbonate solution and dichloromethane. The aqueous layer was extracted with dichloromethane and the combined organic layers washed with brine, dried and concentrated in vacuo. Purification was achieved by chromatography on Isolute® flash silica gel (Separtis) to give 2-[(2-chloro-pyridin-4-ylmethylamino]-nicotinic acid methyl ester (0.76 g); 1H-NMR (300 MHz, d6-DMSO) 8.47 (1H, t), 8.30 (1H, d), 8.23 (1H, unresolved dd), 8.13 (1H, unresolved dd), 7.38 (1H, s), 7.30 (1H, d), 6.68 (1H, dd), 4.73 (2H, d), 3.85 (3H, s).

reactant | 2-[(2-chloro-pyridine-4-carbonyl)-amino]-nicotinic acid methyl ester | 13.72 mmol, 4 g | COC(C1=C(N=CC=C1)NC(=O)C1=CC(=NC=C1)Cl)=O | C13H10ClN3O3
reactant | borane dimethyl sulphide | 68.6 mmol, 2M, 34 mL | B.CSC
reactant | MeOH | CO | CH4O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2-chloro-pyridin-4-ylmethylamino]-nicotinic acid methyl ester | 0.76 g | COC(C1=C(N=CC=C1)NCC1=CC(=NC=C1)Cl)=O | C13H12ClN3O2
